US08859777B2
A solution of 4-(4-chlorophenyl)-4-fluoropiperidine hydrochloride (100 mg, 0.40 mmol) and 3,3-diphenyl-1-iodopropane (145 mg, 0.45 mmol) in DMF (2.5 mL) was treated with potassium carbonate (560 mg, 4.05 mmol) and the resulting suspension heated at 80° C. for 14 hours. After this time the reaction was cooled to room temperature and quenched by pouring into 25% aqueous ammonium chloride solution (20 mL). The resulting suspension was then extracted with ethyl acetate (2×10 mL) and the combined extracts washed with water (10 mL) and brine (10 mL) then dried over magnesium sulfate. Subsequent filtration and concentration under reduced pressure afforded crude 4-(4-chlorophenyl)-1-(3,3-diphenyl-propyl)-4-fluoropiperidine as a yellow oil. This material was treated with 10% methanolic hydrogen chloride (10 mL) and the solution concentrated under reduced pressure. Trituration of the resulting oil with 1:1 ethyl acetate/2-butanone (10 mL) afforded a solid which was isolated by filtration and vacuum dried. This afforded a 41% yield of 4-(4-chlorophenyl)-1-(3,3-diphenylpropyl)-4-fluoropiperidine hydrochloride as an off-white solid.

reactant | 4-(4-chlorophenyl)-4-fluoropiperidine hydrochloride | 0.40 mmol, 100 mg | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)F
reactant | 3,3-diphenyl-1-iodopropane | 0.45 mmol, 145 mg | C1(=CC=CC=C1)C(CCI)C1=CC=CC=C1 | C15H15I
reactant | potassium carbonate | 4.05 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 4-(4-chlorophenyl)-1-(3,3-diphenyl-propyl)-4-fluoropiperidine | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1)F | C26H27ClFN
